US06255538B1
To a 500 mL, 3-neck, round-bottom flask equipped with a stirrer, thermocouple and nitrogen are added 67 weight percent p-toluenesulfonic acid (PTSA) in water (33.5 g), hydroquinone (20.0 g, 0.18 moles), diisobutylene (101.8 g, 0.91 moles) and 95% aqueous sulfuric acid (11.2 g, 0.112 moles). This mixture is heated to 58° C. under a nitrogen blanket with stirring. After 14 hours reaction time at 58° C., diisobutylene (50 g) is added and the lower aqueous phase (containing PTSA, sulfuric acid, hydroquinone, mono-(1,1,3,3-tetramethylbutyl)hydroquinone and small amounts of other polar side products) is transferred to another reactor. The diisobutylene phase is washed with 150 g water two times at 50° C. and once at 85°. The remaining clear organic phase at 85° C. is cooled to 70° C. and eventually to 0-10° C. and the 2,5-bis(1,1,3,3-tetramethylbutyl)hydroquinone product which crystallizes is collected by filtration. The product is washed with 60 g cold diisobutylene and dried at room temperature overnight. The 2,5-bis(1,1,3,3-tetramethylbutyl)hydroquinone product is obtained in a yield of 73% product and a purity greater than 98.5%.

reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydroquinone | 0.18 moles, 20.0 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | diisobutylene | 0.91 moles, 101.8 g | CC(=C)CC(C)(C)C | C8H16
reactant | sulfuric acid | 0.112 moles, 11.2 g | S(O)(O)(=O)=O | H2O4S
reactant | diisobutylene | 50 g | CC(=C)CC(C)(C)C | C8H16
reactant | mono-(1,1,3,3-tetramethylbutyl)hydroquinone | CC(CC(C)(C)C)(C)C1=C(O)C=CC(=C1)O | C14H22O2
solvent | water | 33.5 g | O | H2O
product | 2,5-bis(1,1,3,3-tetramethylbutyl)hydroquinone | CC(CC(C)(C)C)(C)C1=C(O)C=C(C(=C1)O)C(CC(C)(C)C)(C)C | C22H38O2
